US05442070
A solution of 1.7 g of potassium iodide in 10 cm3 of water is added with stirring at approximately 0° C. to a suspension of 33 g of 3-ethoxycarbonyl-7,8-difluoro -1-ethyl-4-oxo-1,2,3,4-tetrahydrobenzo[b][1,8]naphthyridine in 1,000 cm3 of ethanol. The suspension is heated to 77° C., and 12.7 cm3 of 33% by weight hydrogen peroxide are introduced in the course of 30 minutes at this temperature. The reaction mixture is kept refluxing for a further 30 minutes and is then cooled to approximately 20° C. A solution of 6 g of sodium thiosulphate in 20 cm3 of water is introduced in the course of 5 minutes at this temperature. The precipitate obtained is drained at approximately 20° C. and washed with twice 150 cm3 of water. The wet product obtained is dried under reduced pressure (20 kPa) at approximately 50° C. 28.7 g of 3-ethoxycarbonyl-7,8-difluoro-1-ethyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine are isolated in the form of a light yellow solid, melting point 270° C.

reactant | potassium iodide | 1.7 g | [I-].[K+]
reactant | 3-ethoxycarbonyl-7,8-difluoro -1-ethyl-4-oxo-1,2,3,4-tetrahydrobenzo[b][1,8]naphthyridine | 33 g | C(C)OC(=O)C1C(C=2C=C3C(=NC2N(C1)CC)C=C(C(=C3)F)F)=O | C17H16F2N2O3
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium thiosulphate | 6 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 10 cm3 | O | H2O
solvent | ethanol | 1,000 cm3 | C(C)O | C2H6O
solvent | water | 20 cm3 | O | H2O
product | 3-ethoxycarbonyl-7,8-difluoro-1-ethyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 28.7 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)CC)C=C(C(=C3)F)F)=O | C17H14F2N2O3
